US07105544B2
N-{3-[1-(3-{[DIFLUORO(PHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-METHYLPHENYL}-2-METHYLPROPANAMIDE
Example 124 was prepared from 2,2-difluoro-2-phenylacetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 8.00 (s, 2H), 7.68–7.63 (m, 3H), 7.49–7.39 (m, 3H), 7.23 (d, 1H, J=1.8 Hz), 7.07 (d, 1H, J=8.3 Hz), 3.45 (q, 2H, J=4.9 Hz), 3.11 (d, 2H, J=10.2 Hz), 2.76–2.66 (m, 1H), 2.56 (t, 2H, J=5.0 Hz), 2.44 (septet, 1H, J=6.9 Hz), 2.28 (s, 3H), 2.13–2.05 (m, 2H), 1.82–1.71 (m, 6H), 1.15 (d, 6H, J=6.9 Hz); ESMS m/e: 472.4 (M+H)+.

reactant | 2,2-difluoro-2-phenylacetic acid | FC(C(=O)O)(C1=CC=CC=C1)F | C8H6F2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | N-{3-[1-(3-{[DIFLUORO(PHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-METHYLPHENYL}-2-METHYLPROPANAMIDE | FC(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O)(C1=CC=CC=C1)F | C27H35F2N3O2
